US07030121B2
To a mixture of 5-(phenylethynyl)-2-(phenylsulfonyl)pyridine (6.00 g) and K2CO3 (13.0 g) in DMF (120 mL) was added 1-aminopyrazin-1-ium iodide (12.6 g) and the mixture was stirred at room temperature for 1 h, then stirred at 60° C. for 8 h. To the reaction mixture was added K2CO3 (7.80 g) and 1-aminopyrazin-1-ium iodide (8.38 g) and stirred at room temperature for 1 h, then stirred at 60° C. for 12 h. To the reaction mixture was added further K2CO3 (7.80 g) and 1-aminopyrazin-1-ium iodide (8.38 g) and stirred at room temperature for 1 h, then stirred at 60° C. for 26 h. The mixture was poured into ice water and extracted with EtOAc, washed with water and brine, dried over sodium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (n-hexane-EtOAc 3:1 to CHCl3-MeOH 20:1) to give 2-phenyl-3-[6-(phenylsulfonyl)-3-pyridinyl]pyrazolo[1,5-a]pyrazine (4.14 g) as an amorphous solid.

reactant | 5-(phenylethynyl)-2-(phenylsulfonyl)pyridine | 6.00 g | C1(=CC=CC=C1)C#CC=1C=CC(=NC1)S(=O)(=O)C1=CC=CC=C1 | C19H13NO2S
reactant | K2CO3 | 13.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-aminopyrazin-1-ium iodide | 12.6 g | [I-].N[N+]1=CC=NC=C1
reactant | K2CO3 | 7.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-aminopyrazin-1-ium iodide | 8.38 g | [I-].N[N+]1=CC=NC=C1
reactant | K2CO3 | 7.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-aminopyrazin-1-ium iodide | 8.38 g | [I-].N[N+]1=CC=NC=C1
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-3-[6-(phenylsulfonyl)-3-pyridinyl]pyrazolo[1,5-a]pyrazine | 4.14 g | C1(=CC=CC=C1)C1=NN2C(C=NC=C2)=C1C=1C=NC(=CC1)S(=O)(=O)C1=CC=CC=C1 | C23H16N4O2S
